US04303666
A mixture of 1,2-diamino-4-phenylselenobenzene (11.3 g. 43 mmole) and 1,3-bis(methoxycarbonyl)-2-methylisothiourea (10.3 g., 50 mmole) in glacial acetic acid (10 ml.), ethanol (100 ml.) and water (100 ml.) was boiled under reflux for two hours and allowed to cool. The reaction mixture was filtered, and the solid product was crystallised from a mixture of equal volumes of acetic acid and methanol to give methyl 5-phenylseleno-2-benzimidazolecarbamate, m.p. 238°-240° C.

reactant | 1,2-diamino-4-phenylselenobenzene | 43 mmole, 11.3 g | NC1=C(C=C(C=C1)[Se]C1=CC=CC=C1)N | C12H12N2Se
reactant | 1,3-bis(methoxycarbonyl)-2-methylisothiourea | 50 mmole, 10.3 g | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | methyl 5-phenylseleno-2-benzimidazolecarbamate | C1(=CC=CC=C1)[Se]C1=CC2=C(N=C(N2)NC(=O)OC)C=C1 | C15H13N3O2Se
